US07427684B2
This example illustrates that adipic acid may be successfully hydrogenated in the presence of water and methyl amine to produce N-methyl-caprolactam.

reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | methyl amine | CN | CH5N
solvent | water | O | H2O
product | N-methyl-caprolactam | CN1C(CCCCC1)=O | C7H13NO
